US04543248
2-Amino-5-chloro-6-phenyl-4-pyrimidinol
To 1.87 g. (10 mM) of 2-amino-6-pheny-4-pyrimidinol is added 50 ml. of glacial acetic acid and 1.46 g. (11 mM) of N-chlorosuccinimide. The mixture is heated with magnetic stirring under nitrogen at 90° C. for 2 hours (solution was complete in less than 20 minutes). The heat is removed and the amber solution is allowed to cool to room temperature. The solution is evaporated to a volume of 10 ml. under vacuum, cooled to 20° C. and filtered. The resulting solids are washed successively with CH3COOH (5 ml.), water (50 ml.), water (50 ml), acetone (100 ml.) and diethyl ether (100 ml.). The solids are dried at 60° C. in a vacuum oven to yield 1.40 g. (63%) of title compound. The solids can be recrystallized from ethanol:DMF by adding DMF to a hot, ethanol slurry of the pyrimidine until solution is complete. Cooling the solution at 5° C. for 18 hours filtering and drying gives analytically pure 2-amino-5-chloro-6-phenyl-4-pyrimidinol.

reactant | 2-amino-6-pheny-4-pyrimidinol | 10 mM | NC1=NC(=CC(=N1)O)C1=CC=CC=C1 | C10H9N3O
reactant | N-chlorosuccinimide | 11 mM | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-5-chloro-6-phenyl-4-pyrimidinol | 63% | NC1=NC(=C(C(=N1)O)Cl)C1=CC=CC=C1 | C10H8ClN3O
